US08664210B2
To a solution of a 6α-hydroxy-17β-acetoxy-4-ethylandrost-4-en-3-one and 6β-hydroxy-17β-acetoxy-4-ethylandrost-4-en-3-one (510 mg) in acetone (34 ml) cooled at 0° C., Jones reagent (1.1 ml) was added dropwise. 5 min after completion of the addition, DCM (140 ml) was added and the mixture was washed with 10% Na2SO3 aqueous solution, 5% aqueous NaHCO3 solution, and brine. The organic phase was dried over Na2SO4, and evaporated to dryness to give 17β-acetoxy-4-ethylandrost-4-en-3,6-dione (465 g, 92%).

reactant | 6α-hydroxy-17β-acetoxy-4-ethylandrost-4-en-3-one | O[C@H]1C[C@H]2[C@@H]3CC[C@@H]([C@@]3(C)CC[C@@H]2[C@]2(CCC(C(=C12)CC)=O)C)OC(C)=O | C23H34O4
reactant | 6β-hydroxy-17β-acetoxy-4-ethylandrost-4-en-3-one | 510 mg | O[C@@H]1C[C@H]2[C@@H]3CC[C@@H]([C@@]3(C)CC[C@@H]2[C@]2(CCC(C(=C12)CC)=O)C)OC(C)=O | C23H34O4
reactant | Jones reagent | 1.1 ml | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | DCM | 140 ml | C(Cl)Cl | CH2Cl2
solvent | acetone | 34 ml | CC(=O)C | C3H6O
product | 17β-acetoxy-4-ethylandrost-4-en-3,6-dione | 465 g, 92% | C(C)(=O)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC(C3=C(C(CC[C@]3(C)[C@H]1CC2)=O)CC)=O | C23H32O4
